US08022205B2
Using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (100 mg) and 4-(5-bromo-pyridine-3-sulfonyl)-morpholine (prepared from 5-bromo-pyridine-3-sulfonyl chloride and morpholine, 60 mg) instead of 4-bromobenzoic acid methyl ester used in Example 1-D-8, in the same manner as Example 1-D-07, a crude product of bis-(4-methoxy-benzyl)-(5-{7-[5-(morpholine-4-sulfonyl)-pyridin-3-yl]-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}-pyrimidin-2-yl)-amine was obtained, and then the PMB groups were removed according to the above Deprotection method 3, to obtain the desired compound (D-248) as an ivory powder (65 mg, 67%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 100 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | 4-(5-bromo-pyridine-3-sulfonyl)-morpholine | 60 mg | BrC=1C=C(C=NC1)S(=O)(=O)N1CCOCC1 | C9H11BrN2O3S
product | bis-(4-methoxy-benzyl)-(5-{7-[5-(morpholine-4-sulfonyl)-pyridin-3-yl]-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}-pyrimidin-2-yl)-amine | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C=3C=NC=C(C3)S(=O)(=O)N3CCOCC3)CC3=CC=C(C=C3)OC)C=C1 | C39H43N9O6S
